US08623889B2
Step 1: methyl 5-bromo-6-methyl-pyridine-3-carboxylate
To a solution of methyl 5,6-dibromopyridine-3-carboxylate (0.5122 g; 1.737 mmol) in tetrahydrofuran (10.0 mL; 123 mmol) at 0° C. (using an oven-dried flask) was added 1,3-bis(diphenylphosphino)propane nickel(II) chloride (98.0 mg; 0.179 mmol). After 5 minutes, methylmagnesium bromide (1.4 mol/L) in THF:toluene (1:3) (1.6 mL; 2.2 mmol) was added dropwise. After addition was complete, the reaction mixture was stirred at room temperature. After 8 hours, methylmagnesium bromide (1.4 mol/L) in THF:toluene (1:3) (1.0 mL) was added and the reaction stirred at room temperature overnight. The reaction mixture was quenched with saturated aqueous NH4Cl and extracted with ethyl acetate. The organic portion was dried over MgSO4, filtered, and evaporated in vacuo. The crude product was purified via flash chromatography on silica gel (25 g silica, solvent gradient: 0-30% ethyl acetate in dichloromethane) to yield 174.1 mg (44%) of the title compound. LCMS (ESI): M+H=230.2; 1H NMR (400 MHz, DMSO) δ 8.93 (d, J=1.4 Hz, 1H), 8.39 (d, J=1.4 Hz, 1H), 3.89 (s, 4H), 2.67 (s, 4H).

reactant | methyl 5,6-dibromopyridine-3-carboxylate | 1.737 mmol, 0.5122 g | BrC=1C=C(C=NC1Br)C(=O)OC | C7H5Br2NO2
reactant | tetrahydrofuran | 123 mmol, 10.0 mL | O1CCCC1 | C4H8O
reactant | methylmagnesium bromide | 1.4 mol/L | C[Mg]Br
reactant | methylmagnesium bromide | 1.4 mol/L | C[Mg]Br
solvent | THF toluene | 1.0 mL | C1CCOC1.C1(=CC=CC=C1)C
catalyst | 1,3-bis(diphenylphosphino)propane nickel(II) chloride | 0.179 mmol, 98.0 mg | [Ni](Cl)Cl.C1(=CC=CC=C1)P(CCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1
solvent | THF toluene | 2.2 mmol, 1.6 mL | C1CCOC1.C1(=CC=CC=C1)C
product | methyl 5-bromo-6-methyl-pyridine-3-carboxylate | 174.1 mg, 44% | BrC=1C=C(C=NC1C)C(=O)OC | C8H8BrNO2
